US07049438B2
4-(2-chloro-5-methoxyanilino)-7-hydroxy-5-(3-pyrrolidin-1-ylpropoxy)quinazoline
A mixture of 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-(3-pyrrolidin-1-ylpropoxy)quinazoline (0.68 g), 10% palladium on charcoal catalyst (0.16 g), ethanol (13 ml) and THF (13 ml) was stirred under 5 atmospheres pressure of hydrogen for 16 hours. The mixture was filtered and the filtrate was evaporated, The residue was triturated under methanol. The resultant solid was isolated, washed with diethyl ether and dried under vacuum. There was thus obtained the title compound (0.405 g); NMR Spectrum: (DMSOd6) 1.65 (br s, 4H), 2.1 (m, 2H), 2.4 (br s, 4H), 2.55 (t, 2H), 3.8 (s, 3H), 4.4 (t, 2H), 6.7 (m, 2H), 6.75 (m, 1H), 7.48 (d, 1H), 8.3 (d, 1H), 8.4 (s, 1H), 10.05 (s, 1H).

reactant | 7-benzyloxy-4-(2-chloro-5-methoxyanilino)-5-(3-pyrrolidin-1-ylpropoxy)quinazoline | 0.68 g | C(C1=CC=CC=C1)OC1=CC(=C2C(=NC=NC2=C1)NC1=C(C=CC(=C1)OC)Cl)OCCCN1CCCC1 | C29H31ClN4O3
reactant | ethanol | 13 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.16 g | [Pd] | Pd
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | 4-(2-chloro-5-methoxyanilino)-7-hydroxy-5-(3-pyrrolidin-1-ylpropoxy)quinazoline | 0.405 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OCCCN2CCCC2)O)C=C(C=C1)OC | C22H25ClN4O3
